US05420275
3,4-Dimethoxycarbonyl-5-hydroxypyridine.
Dimethyl fumarate (781 mg; 1.1 eq.) was added to 5-ethoxyoxazole (557.3 mg; 4.9 mmol), and the mixture was reacted at 120° C. for 1.5 hours. The reaction residue was purified by silica gel column chromatography (eluent: ethyl acetate/hexane 2:1), to give crude crystals of the title compound. Yield: 730 mg (70.2%). The crude crystals were recrystallized from dichloromethane-hexane, to give colorless plates.

reactant | Dimethyl fumarate | 781 mg, 1.1 eq. | C(\C=C\C(=O)OC)(=O)OC | C6H8O4
reactant | 5-ethoxyoxazole | 4.9 mmol, 557.3 mg | C(C)OC1=CN=CO1 | C5H7NO2
product | 3,4-Dimethoxycarbonyl-5-hydroxypyridine | COC(=O)C=1C=NC=C(C1C(=O)OC)O | C9H9NO5
